US08304419B2
A solution of 3-{[3-(bromomethyl)-6-chloro-2-fluorophenyl]oxy}-5-(trifluoromethyl)benzonitrile (5.00 g, 12.24 mmol) in DCM (15 ml) was added dropwise to ammonia (7.0 M solution in MeOH) (69.9 ml, 490 mmol) and the mixture was stirred overnight at rt. The solvent was removed and the crude material was neutralized to give 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-(trifluoromethyl)benzonitrile (4.22 g, 12.24 mmol, 100% yield) as a tan solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.24 (d, 2H), 8.15 (s, 1H), 7.76 (d, 2H), 7.62-7.69 (m, 1H), 7.54-7.61 (m, 1H), 4.12 (s, 2H).

reactant | 3-{[3-(bromomethyl)-6-chloro-2-fluorophenyl]oxy}-5-(trifluoromethyl)benzonitrile | 12.24 mmol, 5.00 g | BrCC=1C(=C(C(=CC1)Cl)OC=1C=C(C#N)C=C(C1)C(F)(F)F)F | C15H7BrClF4NO
reactant | ammonia | 490 mmol, 7.0 M, 69.9 ml | N | H3N
solvent | DCM | 15 ml | C(Cl)Cl | CH2Cl2
product | 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-(trifluoromethyl)benzonitrile | 12.24 mmol, 4.22 g, 100% yield | NCC=1C(=C(C(=CC1)Cl)OC=1C=C(C#N)C=C(C1)C(F)(F)F)F | C15H9ClF4N2O
